US05595686
Preparation of trans, trans-(4-(4-n-butyl-4-silacyclohexyl)cyclohexyl) 4-ethoxy-2,3-difluorobenzoate
The general procedure of Example 31 was repeated using 4-ethoxy-2,3-difluorobenzoic acid and 4-(4-phenyl-4-n-butyl-4-silacyclohexyl)cyclohexanol, thereby obtaining the intended product.

reactant | 4-ethoxy-2,3-difluorobenzoic acid | C(C)OC1=C(C(=C(C(=O)O)C=C1)F)F | C9H8F2O3
reactant | 4-(4-phenyl-4-n-butyl-4-silacyclohexyl)cyclohexanol | C1(=CC=CC=C1)[Si]1(CCC(CC1)C1CCC(CC1)O)CCCC | C21H34OSi
product | trans-(4-(4-n-butyl-4-silacyclohexyl)cyclohexyl) 4-ethoxy-2,3-difluorobenzoate | C(C)OC1=C(C(=C(C(=O)O[C@@H]2CC[C@H](CC2)C2CC[SiH](CC2)CCCC)C=C1)F)F | C24H36F2O3Si
